US06590024B1
In a 21-4-necked glass reaction flask, supplied with dispersion wheel (circumference of 8 cm), reflux cooler, nitrogen supply pipe, thermometer and dosage device, 91.9 gr. of styrene =0.88 moles (purity >99%, stabilized with 0.005% 4-tert-butylcatechol), 79.2 gr of maleic acid anhydride =0.808 moles (purity >99%) and 215.2 gr. distilled stearyl amine =0.8 mole (Arneen 18 D , the Akzo Nobel company) are heated while stirring to a temperature of 85° C., until a clear solution of the reaction product, maleic acid monostearyl amide in styrene is formed.

reactant | 4-tert-butylcatechol | C(C)(C)(C)C=1C=C(C(O)=CC1)O | C10H14O2
reactant | maleic acid anhydride | 79.2 gr | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | stearyl amine | C(CCCCCCCCCCCCCCCCC)N | C18H39N
solvent | styrene | C=CC1=CC=CC=C1 | C8H8
product | maleic acid monostearyl amide | C(CCCCCCCCCCCCCCCCC)NC(\C=C/C(=O)O)=O | C22H41NO3
